US04626537
The starting material for this synthesis is produced as follows: 8 g of methyl iodide in 20 ml of dioxane is added to a solution of 11 g of N-(m-trifluoromethylphenyl)thiourea in 30 ml of dioxane. The reaction mixture is heated for 3 hours on a water bath. The dioxide is evaporated off under reduced pressure, and the residue is recrystallised from a mixture of isopropanol and ethyl acetate to yield N-(m-trifluoromethylphenyl)-S-methylisothiourea-hydroiodide, which melts at 220°.

reactant | methyl iodide | 8 g | CI | CH3I
reactant | N-(m-trifluoromethylphenyl)thiourea | 11 g | FC(C=1C=C(C=CC1)NC(=S)N)(F)F | C8H7F3N2S
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(m-trifluoromethylphenyl)-S-methylisothiourea-hydroiodide | I.FC(C=1C=C(C=CC1)NC(SC)=N)(F)F | InChI=1S/C9H9F3N2S.HI/c1-15-8(13)14-7-4-2-3-6(5-7)9(10,11)12;/h2-5H,1H3,(H2,13,14);1H
